US04613599
5.8 g of 4-morpholino-3-trifluoromethylbenzoylpropionic acid-morpholineamide together with 2.2 ml of hydrazine hydrate and 90 ml of 50% acetic acid are refluxed for 1 hour. The reaction mixture is cooled, concentrated in a rotary evaporator, and a small amount of water is added; the pH-value is adjusted to 6 with a 2 N sodium carbonate solution, and the mixture is extracted with methylene chloride. The methylene chloride extracts are washed with water, dried over sodium sulfate and concentrated by evaporation. From the residue is obtained, by recrystallisation from ethanol/petroleum ether, 6-(3-trifluoromethyl-4-morpholino-phenyl)-4,5-dihydro-3(2H)-pyridazinone, m.p. 163°-166° C.

reactant | 4-morpholino-3-trifluoromethylbenzoylpropionic acid morpholineamide | 5.8 g | O1CCN(CC1)C1=C(C=C(C(=O)C(C(=O)O)C)C=C1)C(F)(F)F.N1(CCOCC1)C(=O)N
reactant | hydrazine hydrate | 2.2 ml | O.NN
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
product | 6-(3-trifluoromethyl-4-morpholino-phenyl)-4,5-dihydro-3(2H)-pyridazinone | FC(C=1C=C(C=CC1N1CCOCC1)C=1CCC(NN1)=O)(F)F | C15H16F3N3O2
